US06294558B1
4,4,4-Trifluoro-1-[3-hydroxy-4-(1,3-thiazol-4-yl)phenyl]-1,3-butanedione (step 1)
To a stirred solution of 4,4,4-trifluoro-1-[3-methoxy-4-(1,3-thiazol-4-yl)phenyl]-1,3-butanedione (395 mg, 1.2 mmol) in DMF (6 ml) was added sodium thiomethoxide (420 mg, 6.0 mmol) and the mixture was heated at 120° C. for 3 hours. The mixture was cooled down to room temperature, and poured into water. The whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give title compound (378 mg, 99% yield).

reactant | 4,4,4-trifluoro-1-[3-methoxy-4-(1,3-thiazol-4-yl)phenyl]-1,3-butanedione | 1.2 mmol, 395 mg | FC(C(CC(=O)C1=CC(=C(C=C1)C=1N=CSC1)OC)=O)(F)F | C14H10F3NO3S
reactant | sodium thiomethoxide | 6.0 mmol, 420 mg | C[S-].[Na+]
reactant | water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4,4,4-Trifluoro-1-[3-hydroxy-4-(1,3-thiazol-4-yl)phenyl]-1,3-butanedione | 378 mg, 99% yield | FC(C(CC(=O)C1=CC(=C(C=C1)C=1N=CSC1)O)=O)(F)F | C13H8F3NO3S
